US04835175
Under the conditions of Example 14(E), 1.5 g of 4-tert-butylaminoacetyl-7-hydroxyindole-2-carboxylic acid phenyl ester hydrochloride is hydrogenated in a mixture of 40 ml of methanol and 40 ml of tetrahydrofuran and worked up, thus producing 1.35 g of 4-(2-tert-butylamino-1-hydroxy-ethyl)-7-hydroxyindole-2-carboxylic acid phenyl ester hydrochloride, decomposition point 165°-166° C.

reactant | 4-tert-butylaminoacetyl-7-hydroxyindole-2-carboxylic acid phenyl ester hydrochloride | 1.5 g | Cl.C1(=CC=CC=C1)OC(=O)C=1NC2=C(C=CC(=C2C1)C(CNC(C)(C)C)=O)O
solvent | methanol | 40 ml | CO | CH4O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 4-(2-tert-butylamino-1-hydroxy-ethyl)-7-hydroxyindole-2-carboxylic acid phenyl ester hydrochloride | 1.35 g | Cl.C1(=CC=CC=C1)OC(=O)C=1NC2=C(C=CC(=C2C1)C(CNC(C)(C)C)O)O | InChI=1S/C21H24N2O4.ClH/c1-21(2,3)22-12-18(25)14-9-10-17(24)19-15(14)11-16(23-19)20(26)27-13-7-5-4-6-8-13;/h4-11,18,22-25H,12H2,1-3H3;1H
